US07196099B2
Crude 4-amino-3-hydroxy-azepane-1-carboxylic acid benzyl ester (150 mg, 0.57 mmol) prepared as in Reference 2, 2-[(morpholine-4-carbonyl)-amino]-3-phenylmethanesulfonyl-propionic acid (400 mg, 1.12 mmol), EDC (400 mg, 2.1 mmol), and HOBt (400 mg, 2.5 mmol) were combined. Dichloromethane (10 mL) was added followed by 4-methylmorpholine (0.5 mL). The mixture was stirred at ambient temperature for 2 hours. After dilution with ethyl acetate (100 mL) the solution was washed with 1N HCl, saturated aqueous NaHCO3 and brine, dried with MgSO4 and evaporated under vacuum. The residue was purified by flash chromatography (ethyl acetate/methanol 9: 1) to yield 3-hydroxy-4-{2-[(morpholine-4-carbonyl)-amino]-3-phenylmethanesulfonyl-propionyl-amino}-azepane-1-carboxylic acid benzyl ester (320 mg).

reactant | 4-amino-3-hydroxy-azepane-1-carboxylic acid benzyl ester | 0.57 mmol, 150 mg | C(C1=CC=CC=C1)OC(=O)N1CC(C(CCC1)N)O | C14H20N2O3
reactant | 2-[(morpholine-4-carbonyl)-amino]-3-phenylmethanesulfonyl-propionic acid | 1.12 mmol, 400 mg | N1(CCOCC1)C(=O)NC(C(=O)O)CS(=O)(=O)CC1=CC=CC=C1 | C15H20N2O6S
reactant | EDC | 2.1 mmol, 400 mg
reactant | HOBt | 2.5 mmol, 400 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 4-methylmorpholine | 0.5 mL | CN1CCOCC1 | C5H11NO
solvent | Dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 3-hydroxy-4-{2-[(morpholine-4-carbonyl)-amino]-3-phenylmethanesulfonyl-propionyl-amino}-azepane-1-carboxylic acid benzyl ester | 320 mg | C(C1=CC=CC=C1)OC(=O)N1CC(C(CCC1)NC(C(CS(=O)(=O)CC1=CC=CC=C1)NC(=O)N1CCOCC1)=O)O | C29H38N4O8S
